US09388189B2
(S)-tert-Butyl (3-(benzyloxy)-1-(5-bromo-3-(3,5-difluorophenyl)-4-oxo-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)carbamate
Triphenylphosphine (1.29 g, 4.92 mmol) was dissolved in 21 mL anhydrous dichloromethane. Bromine (253 μl, 4.94 mmol) was added dropwise under argon atmosphere and the reaction was stirred at room temperature for 30 min. Triethylamine (1.96 mL, 4 mmol) and (S)-tert-butyl (4-(benzyloxy)-1-((3-bromo-2-((3,5-difluorophenyl)carbamoyl)-1H-pyrrol-1-yl)amino)-1-oxobutan-2-yl)carbamate (2.15 g, 3.52 mmol) were added and the reaction mixture was heated at 60° C. for 2 h. The mixture was poured into 75 mL 4% aqueous solution sodium bicarbonate and extracted with dichlorometane. The organics were dried over sodium sulphate, filtered and evaporated. The residue was re-dissolved in 19 mL tetrahydrofuran and 2 mL dichloromethane and, under argon conditions, sodium methanethiolate was added and the reaction was stirred at room temperature for 1 h. The mixture was poured into 4% aqueous solution sodium bicarbonate and extracted with ethyl acetate. The organic layer was washed with water, brine and dried over sodium sulphate, filtered and concentrated. The residue was purified using Isolera® Purification System (0% to 20%, hexane-ethyl acetate) to obtain 1.66 g (74% yield) of the title compound as a white solid.

reactant | Triphenylphosphine | 4.92 mmol, 1.29 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Bromine | 4.94 mmol, 253 μl | BrBr | Br2
reactant | Triethylamine | 4 mmol, 1.96 mL | C(C)N(CC)CC | C6H15N
reactant | (S)-tert-butyl (4-(benzyloxy)-1-((3-bromo-2-((3,5-difluorophenyl)carbamoyl)-1H-pyrrol-1-yl)amino)-1-oxobutan-2-yl)carbamate | 3.52 mmol, 2.15 g | C(C1=CC=CC=C1)OCC[C@@H](C(=O)NN1C(=C(C=C1)Br)C(NC1=CC(=CC(=C1)F)F)=O)NC(OC(C)(C)C)=O | C27H29BrF2N4O5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 21 mL | ClCCl | CH2Cl2
product | (S)-tert-Butyl (3-(benzyloxy)-1-(5-bromo-3-(3,5-difluorophenyl)-4-oxo-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)carbamate | 1.66 g, 74% yield | C(C1=CC=CC=C1)OCC[C@@H](C1=NN2C(C(N1C1=CC(=CC(=C1)F)F)=O)=C(C=C2)Br)NC(OC(C)(C)C)=O | C27H27BrF2N4O4
